US07812028B2
b) 5-(4-Chloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-6-[2-(1-hydroxy-cyclopentyl)-ethyl]-nicotinamide
5-(4-Chloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-6-(1-hydroxy-cyclopentylethynyl)-nicotinamide (120 mg, 0.27 mmol) was dissolved in ethylacetate (15 mL) and hydrogenated in the presence of palladium on charcoal (10%) at room temperature and atmospheric pressure. After filtration and evaporation of the solvent the residue was purified by chromatography on silica gel with a ethyl acetate:methanol gradient to yield the product as colorless foam, MS (ISP) 443.1, 445.1 (M+H)+.

reactant | 5-(4-Chloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-6-(1-hydroxy-cyclopentylethynyl)-nicotinamide | 0.27 mmol, 120 mg | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C1)C#CC1(CCCC1)O | C25H27ClN2O3
solvent | ethylacetate | 15 mL | C(C)OC(C)=O | C4H8O2
catalyst | palladium on charcoal | [Pd] | Pd
product | 5-(4-Chloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-6-[2-(1-hydroxy-cyclopentyl)-ethyl]-nicotinamide | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C1)CCC1(CCCC1)O | C25H31ClN2O3
